US08710223B2
A mixture of 2-chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine hydrochloride (256 mg, 0.791 mmol, 1 equiv), 4-cyclopropyl-5-(5-cyclopropyl-1H-tetrazol-1-yl)-2-fluorobenzenamine (205 mg, 0.791 mmol, 1 equiv), and PTSA monohydrate (120 mg, 0.633 mmol, 0.8 equiv) in IPA (8 mL) were heated to 70° C. for 8 days. After cooling to ambient temperature, the crude mixture was concentrated to dryness and taken in water, EtOAc, and 1N NaOH. The layers were separated. The organic layer was washed with 1N NaOH 2×, dried over Na2SO4, filtered, and concentrated to dryness. The crude product was purified by trituration from EtOAc:hexane to give compound N2-(4-cyclopropyl-5-(5-cyclopropyl-1H-tetrazol-1-yl)-2-fluorophenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine (276 mg, 68%) as a solid.

reactant | 2-chloro-5-fluoro-N-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidin-4-amine hydrochloride | 0.791 mmol, 256 mg, 1 equiv | Cl.ClC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F
reactant | 4-cyclopropyl-5-(5-cyclopropyl-1H-tetrazol-1-yl)-2-fluorobenzenamine | 0.791 mmol, 205 mg, 1 equiv | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1C1CC1)N)F | C13H14FN5
solvent | IPA | 8 mL | CC(C)O | C3H8O
product | N2-(4-cyclopropyl-5-(5-cyclopropyl-1H-tetrazol-1-yl)-2-fluorophenyl)-5-fluoro-N4-(2,2,6,6-tetramethylpiperidin-4-yl)pyrimidine-2,4-diamine | 276 mg, 68% | C1(CC1)C1=CC(=C(C=C1N1N=NN=C1C1CC1)NC1=NC=C(C(=N1)NC1CC(NC(C1)(C)C)(C)C)F)F | C26H33F2N9
